US06924374B2
4-(4-Chloro-3-trifluoromethyl-phenyl)-1-ethyl-piperidine
Beginning with 4-(4-Chloro-3-trifluoromethyl-phenyl)-piperidine and iodoethane, the title compound was recovered by the procedure described in Example 2. MS m/z (rel. intensity, 70 eV) 291 (M+, 6), 278 (29), 277 (11), 276 (bp), 70 (50).

reactant | 4-(4-Chloro-3-trifluoromethyl-phenyl)-piperidine | ClC1=C(C=C(C=C1)C1CCNCC1)C(F)(F)F | C12H13ClF3N
reactant | iodoethane | ICC | C2H5I
product | 4-(4-Chloro-3-trifluoromethyl-phenyl)-1-ethyl-piperidine | ClC1=C(C=C(C=C1)C1CCN(CC1)CC)C(F)(F)F | C14H17ClF3N
